US06476063B2
2-(4-Nitrophenyl)-N-methyl-N-[(1S)-1-phenyl-2-(1-pyrrolidinyl)ethyl]acetamide; ADL-01-0079-2
ADL-01-0079-2 was prepared via the general EDCI/DIPEA coupling procedure from 28 (1.5 g; 7.3 mmol), 4-Nitrophenylacetic acid(2.0 g; 11.0 mmol), HOBT (1.4 g; 11 mmol), EDCI (2.1 g; 11.0mmol), and DIPEA (2.5 mL; 14.6 mmol). The crude product was purified by flash chromatography using a stepwise gradient of 1% to 5% MeOH: methylene chloride to afford 2.5 g(93%) of pure product which was treated with 1.0HCl in diethyl ether to give 39 as the HCl salt. 1H NMR(HCl salt, CDCl3) δ1.6(br, m, 4H, —CH2CH2—), 2.8(br, s, 3H, —NCH3), 6.4(br, m,1H, —CH), 7.1-7.5(complex, 7H, aromatic), 8.0(br, d, 2 h, aromatic). MS (FAB) m/z 367. Anal. (C,H,N) C21H25N3O3.HCl.

reactant | EDCI DIPEA | CCN=C=NCCCN(C)C.CCN(C(C)C)C(C)C
reactant | 4-Nitrophenylacetic acid | 11.0 mmol, 2.0 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | HOBT | 11 mmol, 1.4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 11.0mmol, 2.1 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIPEA | 14.6 mmol, 2.5 mL | CCN(C(C)C)C(C)C | C8H19N
product | 2-(4-Nitrophenyl)-N-methyl-N-[(1S)-1-phenyl-2-(1-pyrrolidinyl)ethyl]acetamide | 2.5 g, 93% | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)N([C@H](CN1CCCC1)C1=CC=CC=C1)C | C21H25N3O3
